US04243666
1-Benzyloxycarbonyl-4-[N-2,4-dimethoxybenzylcarbamoyl]piperidine was prepared similarly to Preparation C starting from 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride and 2,4-dimethoxybenzylamine. The product was identified by n.m.r. spectroscopy. This product (7.6 g) in ethanol (150 ml) was hydrogenated over 5% palladium on charcoal at 50°/50 p.s.i. The catalyst was removed by filtration and the filtrate evaporated in vacuo to give 4-[N-(2,4-dimethoxybenzyl)carbamoyl]piperidine (5.0 g) as a solid. A sample in chloroform was converted to the hydrochloride salt by treatment with ethereal hydrogen chloride and recrystallised from isopropanol, m.p. 222°-224°.

reactant | 1-benzyloxycarbonylpiperidine-4-carboxylic acid chloride | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
reactant | 2,4-dimethoxybenzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-[N-(2,4-dimethoxybenzyl)carbamoyl]piperidine | 5.0 g | COC1=C(CNC(=O)C2CCNCC2)C=CC(=C1)OC | C15H22N2O3
